US07064215B2
Synthesis of 3,4-Bis-(1H-benzoimidazol-2-yl)-1H-indazole
The title compound is prepared using the procedure described in Example 4 from 1H-indazole-3,4-dicarbaldehyde and an excess of 1,2-diaminobenzene.

reactant | 1H-indazole-3,4-dicarbaldehyde | N1N=C(C=2C(=CC=CC12)C=O)C=O | C9H6N2O2
reactant | 1,2-diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
product | 3,4-Bis-(1H-benzoimidazol-2-yl)-1H-indazole | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC=CC(=C21)C2=NC1=C(N2)C=CC=C1 | C21H14N6
